datasets/10k__Tet_Int.csv
SMILES Labelled
"C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]CC)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]CC)[O]CC 10=20;20,21=21"
"[O:20]=[C:21](OCC)OC.[H][O:10][K]>>[H][O+:10]([K])[C:21]([O-:20])(OCC)OC 10=21;21,20=20"
"CC[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C)[NH]CC.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C)[NH]CC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C(C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(CC)C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C)C)C1=CC=CC=C1)C>>[H]N([C:20]1(OC(C(C([O:21]1)C)C)C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C([H])[NH][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
"[H][S+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C([O:21]1)[H])C)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])[H])C)CCCCCC 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH](C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[O:20]=[C:21](O[H])OCCCCCC.C1=CC=CC=C1[O:10][K]>>C1=CC=CC=C1[O+:10]([K])[C:21]([O-:20])(O[H])OCCCCCC 10=21;21,20=20"
"CCCCCCC1C(C(O[C:20](=[O:10])N1[H])CC)[H].[O-:21][H]>>CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21][H])CC)[H] 21=20;20,10=10"
"[OH:21][CH:20]2(OCC)C(C3=C(C([NH+:10]2([H]))C)C=CC=C3)[H]>>[NH:10]([H])C(C1=C(C([CH:20](OCC)=[OH+:21])[H])C=CC=C1)C 21=20;20,10=10"
"[NH:10]([H])C([H])C([H])C(O)C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C(O)C([H])C([H])[NH+:10]1([H]) 10=20;20,21=21"
"[NH:10](C)C(C(C1=C(C=CC=C1)[CH:20](C)=[O:21])O)[H]>>[O-:21][CH:20]2(C)C3=C(C(C([NH+:10]2(C))[H])O)C=CC=C3  10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]C)[H])CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1CC)[H])CCCCCC.[O-:21]C 10=20;20,21=21"
"[H][S:10]C(CC)C(CC)[S][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(CC)[S]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"[OH:21][CH:20]2([H])C3=C(C(C([NH+:10]2(C))C)[H])C=CC=C3>>[NH:10](C)C(C(C1=C(C=CC=C1)[CH:20]([H])=[OH+:21])[H])C  21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C(C)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"[O-:21][C:20]1(C)[O+:10]([K])C(CC)C(O)C1[H]>>[O:10]([K])C(CC)C(O)C([C:20](C)=[O:21])[H] 21=20;20,10=10"
"[H][S+:10](C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OCC)C1=CC=CC=C1)CCCCCC>>C(C([O-:21])C)(C(O[C:20](=[O:10])OCC)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C(C)[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](CC)[CH](C)C(C8=CC=CC=C8)[S]2.C[S:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](CC)[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][S+:10](C(C)C(C)C(CC)[O]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C(CC)[O][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"[H][NH:10]C([H])C(C)C(C)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C8=CC=CC=C8)[S]CC.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C8=CC=CC=C8)[S]CC 10=20;20,21=21"
"[OH:21][C:20]1(C)[OH+:10]C(CCC)C(C)=C1O>>[OH:10]C(CCC)/C(C)=C([C:20](C)=[OH+:21])/O 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C(C)[NH][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"[H][O:10][H].CC[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]CC)([O]C8=CC=CC=C8)[NH]CC 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
